US04473586
5-methylthio-8-methoxy-1,2,3,4-tetrahydro-1-naphthalenone is reacted with trimethylsilylcyanide followed by lithium aluminum hydride, and the resulting intermediate hydroxy amino compound is dehydrated with HCl, according to the procedure of Examples 1 and 3, to yield 1-aminomethyl-5-methylthio-8-methoxy-3,4-dihydronaphthalene HCl.

reactant | 5-methylthio-8-methoxy-1,2,3,4-tetrahydro-1-naphthalenone | CSC1=C2CCCC(C2=C(C=C1)OC)=O | C12H14O2S
reactant | trimethylsilylcyanide | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | Cl | ClH
product | 1-aminomethyl-5-methylthio-8-methoxy-3,4-dihydronaphthalene HCl | Cl.NCC1=CCCC2=C(C=CC(=C12)OC)SC | InChI=1S/C13H17NOS.ClH/c1-15-11-6-7-12(16-2)10-5-3-4-9(8-14)13(10)11;/h4,6-7H,3,5,8,14H2,1-2H3;1H
